US04367238
2-Hydroxy-3-(o-tolyloxy)benzaldehyde (64.20 g), dimethyl sulfate (46.10 g) and powdered potassium carbonate (50.50 g) were added to dimethylformamide (150 ml) and stirred at room temperature for 2 hrs. The reaction mixture was poured into water (1 l), and the precipitating crystals were collected by filtration. The aqueous filtrate was extracted with diethyl ether, and the crystals obtained above were dissolved in the extract. The ether solution was washed with water, dried over magnesium sulfate and evaporated. The crystalline residue was recrystallized from methanol to give colorless crystals of 2-methoxy-3-(o-tolyloxy)benzaldehyde (48.70 g). mp 53°-55° C.

reactant | 2-Hydroxy-3-(o-tolyloxy)benzaldehyde | 64.20 g | OC1=C(C=O)C=CC=C1OC1=C(C=CC=C1)C | C14H12O3
reactant | dimethyl sulfate | 46.10 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium carbonate | 50.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | 1 l | O | H2O
product | 2-methoxy-3-(o-tolyloxy)benzaldehyde | 48.70 g | COC1=C(C=O)C=CC=C1OC1=C(C=CC=C1)C | C15H14O3
